### PR TITLE
[Merged by Bors] - Support coersions from Nat to ordered semirings in linarith

### LINKED ISSUE #7031: Teach `linarith` that naturals are positive
It would be nice if `linarith` could solve the following:

```lean
import Mathlib.Data.Real.Basic
example (n : Nat) : 0 ≤ (n : ℝ) := by linarith
```
this version could of course be solved by `norm_cast <;> linarith` but
```lean
import Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic

example (n : Nat) : 0 ≤ (n : ℝ) * Real.pi := by
  norm_cast
  linarith
```
is harder

cf. https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/more.20induction.20related.20questions/near/389403349

### PR DESCRIPTION
**Pull request by sebzim4500**
feat: Assume natural numbers are nonnegative when cast to any ordered semiring inside `linarith`

Previously this would only work when casting to an integer.

---

Fixes #7031 (although one of those examples still does not actually work for other reasons).

This is the kind of thing that works now that didn't before:

```lean
import Mathlib.Data.Real.Basic
import Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic
open Real

example (n : Nat) : (-3/5 : ℚ) < n := by linarith
example (n : Nat) : (-3/5 : ℝ) < n := by linarith
example (n : Nat) : 0 ≤ n * π := by nlinarith [two_le_pi]
```

I'm a bit concerned about performance, since this tactic will now look for an `OrderedSemiring` instance for any coersion from `Nat` that's in the local context. I imagine this could be slow when no such instance exists?

My initial approach was to only look for casts to Rat or Real, but I don't think I can explicit mention Real without creating a cyclic dependency.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 1]
```diff
@@ -114,26 +115,32 @@ partial def isNatProp (e : Expr) : Bool :=
   | (``Not, #[e]) => isNatProp e
   | _ => false
 
-/-- If `e` is of the form `((n : ℕ) : ℤ)`, `isNatIntCoe e` returns `n : ℕ`. -/
-def isNatIntCoe (e : Expr) : Option Expr :=
+
+/-- If `e` is of the form `((n : ℕ) : C)`, `isNatIntCoe e` returns `⟨n, C⟩`. -/
```
Comment (alexjbest) [inline Mathlib/Tactic/Linarith/Preprocessing.lean:119]:
```suggestion
/-- If `e` is of the form `((n : ℕ) : C)`, `isNatCoe e` returns `⟨n, C⟩`. -/
```
if you are renaming the def

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 2]
```diff
@@ -142,6 +149,11 @@ open Std
 def Expr.compare (a b : Expr) : Ordering :=
   if Expr.lt a b then .lt else if a.equal b then .eq else .gt
 
+def compare_nat_casts (a b: Expr × Expr): Ordering :=
```
Comment (alexjbest) [inline Mathlib/Tactic/Linarith/Preprocessing.lean:152]:
```suggestion
def compare_nat_casts (a b : Expr × Expr) : Ordering :=
```
and as the linter says this will need a docstring

**Comment by alexjbest** [comment]
please add some tests to `test/linarith.lean`

I will try and do a proper review later so I just added some minor comments for now.

But this looks like a nice addition to me.

**Comment by alexjbest** [comment]
!bench

**Comment by alexjbest** [comment]
!bench

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 3]
```diff
@@ -114,34 +115,48 @@ partial def isNatProp (e : Expr) : Bool :=
...
+      trace[linarith] "Got exception when using cast {e.toMessageData}"
+      return none
+
 
 open Std
 
 /-- Ordering on `Expr`. -/
--- We only define this so we can use `RBSet Expr`. Perhaps `HashSet` would be more appropriate?
 def Expr.compare (a b : Expr) : Ordering :=
   if Expr.lt a b then .lt else if a.equal b then .eq else .gt
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Preprocessing.lean:151]:
```suggestion
def Expr.Ord : Ord Expr :=
⟨fun a b => if Expr.lt a b then .lt else if a.equal b then .eq else .gt⟩

attribute [local instance] Expr.Ord
```

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 4]
```diff
@@ -166,12 +181,12 @@ def natToInt : GlobalBranchingPreprocessor where
           pure h
       else
         pure h
-    let nonnegs ← l.foldlM (init := ∅) fun (es : RBSet Expr Expr.compare) h => do
+    let nonnegs ← l.foldlM (init := ∅) fun (es : RBSet (Expr × Expr) compare_nat_casts) h => do
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Preprocessing.lean:184]:
```suggestion
    let nonnegs ← l.foldlM (init := ∅) fun (es : RBSet (Expr × Expr) lexOrd.compare) h => do
```

**Review by robertylewis — COMMENTED** [review]
I agree that this is the right implementation of this feature!

`compare_nat_casts` is misnamed and just an instance of `lexOrd`, but `lexOrd` is inconvenient without a type class instance. Really, `Expr.Ord` should live somewhere other than this file. That's a followup PR though.

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 5]
```diff
@@ -114,34 +115,48 @@ partial def isNatProp (e : Expr) : Bool :=
...
--- We only define this so we can use `RBSet Expr`. Perhaps `HashSet` would be more appropriate?
 def Expr.compare (a b : Expr) : Ordering :=
   if Expr.lt a b then .lt else if a.equal b then .eq else .gt
 
+/-- Ordering on `Expr × Expr`. -/
+-- We only define this so we can use `RBSet Expr`. Perhaps `HashSet` would be more appropriate?
+def compare_nat_casts (a b : Expr × Expr) : Ordering :=
+  match Expr.compare a.fst b.fst with
+  | .eq => Expr.compare a.snd b.snd
+  | o => o
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Preprocessing.lean:158]:
```suggestion
```
with those previous suggestions, this can be deleted.

**Comment by robertylewis** [comment]
Thanks again!

bors merge

**Comment by robertylewis** [comment]
bors merge
